2126-03-31 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   This is a 76 yo male with a history of COPD on home O2, MS, CAD s/p
   CABG, and a.fib who presents with hypotension/UTI postoperatively (s/p
   hindfoot fusion)
   24 Hour Events:
   - Urine Cx growing GNRs
   - HCT Stable
   - d/c'ed tamsulosin
   -yesterday some low SBPgot 1.5L of fluid, was mentating well
   -A fib not an issue yesterday\
   -soaked through dressing of foot
   Allergies:
   Levofloxacin
   Rash;
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-3-30**] 02:00 PM
   Ceftriaxone - [**2126-3-30**] 10:00 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-3-30**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-3-31**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 94 (87 - 110) bpm
   BP: 104/57(69) {83/43(55) - 115/66(79)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 10 (9 - 18)mmHg
             Total In:
                                                                  4,846 mL
                                                                    127 mL
   PO:
                                                                    610 mL
             TF:
   IVF:
                                                                  2,930 mL
                                                                    127 mL
   Blood products:
                                                                  1,306 mL
   Total out:
                                                                  1,940 mL
                                                                    260 mL
   Urine:
                                                                  1,940 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,906 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: alert, awake, oriented to self and date but does not know which
   hospital he is in
   Cardiac: distant heart sounds, slightly tachycardic, nl s1/s2 no m/r/g
   Pulm: CTAB posteriorly
   Abd: + bs, soft NTND, no HSM
   Extremities: left leg in wrap which is dry in AM but soaked through
   this afternoon, R leg no sensation until upper thigh, DP pulse non
   palpable
   Labs / Radiology
   202 K/uL
   10.7 g/dL
    mg/dL
    mEq/L
   30.9 %
   7.2 K/uL
        [image002.jpg] urine with gram neg rods
                             [**2126-3-29**]  09:21 PM
                             [**2126-3-30**]  05:09 AM
                             [**2126-3-30**]  12:48 PM
                             [**2126-3-30**]  03:53 PM
                             [**2126-3-30**]  08:22 PM
                             [**2126-3-31**]  03:56 AM
   WBC
   13.0
   6.7
   7.2
   Hct
   28.8
   28.9
   33.3
   31.2
   33.0
   30.9
   Plt
   [**Telephone/Fax (3) 6915**]
   Cr
   0.6
   0.6
   TropT
   0.07
   Glucose
   131
   115
   Other labs: PT / PTT / INR:15.5/26.9/1.4, CK / CKMB /
   Troponin-T:50/5/0.07, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:4.6
   %, Eos:0.8 %, Ca++:6.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 76 yo male with a history of COPD on home O2, CAD s/p CABG,
   and a.fib who presents with hypotension/UTI postoperatively
   #. Hypotension: Likely hypovolemia given blood loss but could be
   portion sepsis given UTI. Had GNR in urine.
   - Trend Hct, transfuse as necessary but stable so far today.  Is off
   phenylephrine.
   -Required volume resuscitation with fluids yesterday and gave 250cc
   today
   -Blood cultures and urine sensitivities pending (looks like could be
   several species of pseudomonas but organism and sensitivities will not
   be back until [**4-1**])
   -Got vancomycin periop and was d/c yesterday, ceftriaxone for
   presumptive UTI (has allergy to flouroquinolones)
   -Hold PO carvedilol and PO lasix for now
   .
   #. Hypoxia: Resolved w/ improved pleth
   -Careful volume resuscitation given Hx of CHF
   -Con't Advair and spiriva
   -Standing albuterol and atrovent nebs
   .
   #. A.fib: Currently rate controlled.
   -Holding PO carvedilol now given hypotension yesterday
   -IV diltiazem PRN
   .
   #. DM2: Hold PO meds, cover with RISS for now.
   .
   #. BPH: hold home tamsulosin given hypotension
   .
   # HTN: h/o HTN
   -holding all BP meds for now, would 1^st  start back BP med such as
   diltiazem to help with rate control
   .
   #. Trigeminal neuralgia: Con't home Zonegran, carbamezapine,
   sertraline, and Neurontin
   .
   #. S/P Hindfoot fixation: is soaking through dressing
   -F/U ortho recs
   -Pain control with dilaudid PCA and PO
   .
   #. CAD:
   -Hold BB given hypotension
   -Con't home ASA and simvastatin
   .
   #. FEN - Diabetic/cardiac diet
   -advanced to clear liquids today and then ADAT
   -afternoon lytes and HCT
   .
   #. Access - PIV, R EJ TLC
   .
   #. PPx -
   -DVT ppx with Fondaparinux
   -Bowel regimen
   -Pain management with dilaudid PCA and PO
   .
   #. Code - Full Code confirmed
   .
   #. Dispo - ICU for now, consider call out if Hct remains stable
   ICU Care
   Nutrition: ADAT on clear liquids today (Cardiac and diabetic diet)
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-3-29**] 07:37 PM
   Prophylaxis:
   DVT: Fondaparinux
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to ortho today

2126-03-31 11:08:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo m with COPD on home oxygen, MS, CAD s/p CABG, afib
   Admitted s/p ankle fusion with hypotension (high EBL and UTI)
   24 Hour Events:
   Has not required pressors
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Levofloxacin
   Rash;
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-3-30**] 02:00 PM
   Ceftriaxone - [**2126-3-30**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   dilaudid, tylenol, protonix, colace, SSI, neurontin, [**Last Name (un) 532**],
   fondaparinux, sertraline, spiriva, flovent, simvastatin, flunisolide,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-3-31**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 99 (87 - 110) bpm
   BP: 111/56(70) {83/43(55) - 115/66(79)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 9 (7 - 14)mmHg
   Total In:
                                                                  4,846 mL
                                                                    218 mL
   PO:
                                                                    610 mL
   TF:
   IVF:
                                                                  2,930 mL
                                                                    218 mL
   Blood products:
                                                                  1,306 mL
   Total out:
                                                                  1,940 mL
                                                                    580 mL
   Urine:
                                                                  1,940 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,906 mL
                                                                   -362 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99% 3 liter nc.
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing; left ankle dressing dry,
   right foot slightly cool but chronic per pt
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   10.7 g/dL
   202 K/uL
   62 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   9 mg/dL
   109 mEq/L
   144 mEq/L
   30.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2126-3-29**]  09:21 PM
                             [**2126-3-30**]  05:09 AM
                             [**2126-3-30**]  12:48 PM
                             [**2126-3-30**]  03:53 PM
                             [**2126-3-30**]  08:22 PM
                             [**2126-3-31**]  03:56 AM
                             [**2126-3-31**]  09:03 AM
   WBC
   13.0
   6.7
   7.2
   Hct
   28.8
   28.9
   33.3
   31.2
   33.0
   30.9
   Plt
   [**Telephone/Fax (3) 6915**]
   Cr
   0.6
   0.6
   0.5
   TropT
   0.07
   Glucose
   131
   115
   62
   Other labs: PT / PTT / INR:15.5/26.9/1.4, CK / CKMB /
   Troponin-T:50/5/0.07, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:4.6
   %, Eos:0.8 %, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Microbiology: Urine culture: GNR
   Assessment and Plan
   76 yo male with COPD on chronic oxygen, DM, MS, trigeminal neuralgia,
   and CAD now s/p  ankle fusion with post-op hypotension due to blood
   loss/sepsis
   1.       Hypotension: improved, has not required pressors for BP.
   Continue to hold BP medicines for now
   2.       Afib: rate control reasonable. Continue to hold carvedilol,
   but can re-start once BP higher
   3.       BPH: holding tamsulosin
   4.       UTI/sepsis: WBC decreasing and GNR growing out of urine
   cultures. Continue CTX and f/u ID/sensitivites
   5.       Advance diet
   6.       Other issues as per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-3-29**] 07:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To floor
   Total time spent:

2126-04-01 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -continues to ooze through dressing HCT stable 30.9 -> 31.1
   -urine with GNR likely pseudomonas but organisms and sensitivities not
   available until tomorrow
   -SBP in 80s assymptomatic and mentating well, gave 500cc NS
   - Developed A-fib with RVR and then flash pulmonary edema, improved
   with diltiazem and lasix.
   Allergies:
   Levofloxacin
   Rash;
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-3-30**] 02:00 PM
   Ceftriaxone - [**2126-3-31**] 10:04 PM
   Infusions:
   Other ICU medications:
   Fondaparinux - [**2126-3-31**] 08:25 AM
   Furosemide (Lasix) - [**2126-4-1**] 12:28 AM
   Morphine Sulfate - [**2126-4-1**] 12:28 AM
   Diltiazem - [**2126-4-1**] 12:47 AM
   Meperidine (Demerol) - [**2126-4-1**] 12:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-4-1**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 94 (83 - 132) bpm
   BP: 87/43(53) {87/40(53) - 167/121(132)} mmHg
   RR: 19 (15 - 32) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 8 (6 - 38)mmHg
   Total In:
                                                                  3,184 mL
                                                                     98 mL
   PO:
                                                                  1,220 mL
   TF:
   IVF:
                                                                  1,964 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                  1,455 mL
   Urine:
                                                                  1,530 mL
                                                                  1,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,654 mL
                                                                 -1,357 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   11.7 g/dL
   118 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   33.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2126-3-29**]  09:21 PM
                             [**2126-3-30**]  05:09 AM
                             [**2126-3-30**]  12:48 PM
                             [**2126-3-30**]  03:53 PM
                             [**2126-3-30**]  08:22 PM
                             [**2126-3-31**]  03:56 AM
                             [**2126-3-31**]  09:03 AM
                             [**2126-3-31**]  04:00 PM
                             [**2126-3-31**]  08:45 PM
                             [**2126-4-1**]  02:08 AM
   WBC
   13.0
   6.7
   7.2
   9.8
   Hct
   28.8
   28.9
   33.3
   31.2
   33.0
   30.9
   31.1
   33.6
   33.9
   Plt
   [**Telephone/Fax (3) 6938**]36
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   TropT
   0.07
   Glucose
   131
   115
   62
   180
   118
   Other labs: PT / PTT / INR:15.5/26.9/1.4, CK / CKMB /
   Troponin-T:50/5/0.07, Differential-Neuts:87.5 %, Lymph:6.9 %, Mono:4.6
   %, Eos:0.8 %, Albumin:2.2 g/dL, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   This is a 76 yo male with a history of COPD on home O2, CAD s/p CABG,
   and a.fib who presents with hypotension/UTI postoperatively
   #. Hypotension: Likely hypovolemia given blood loss but could be
   portion sepsis given UTI. Had GNR in urine.
   - Trend Hct, transfuse as necessary but stable so far today.  Is off
   phenylephrine.
   -Required volume resuscitation with fluids yesterday and gave 250cc
   today
   -Blood cultures and urine sensitivities pending (looks like could be
   several species of pseudomonas but organism and sensitivities will not
   be back until [**4-1**])
   -Got vancomycin periop and was d/c yesterday, ceftriaxone for
   presumptive UTI (has allergy to flouroquinolones)
   -Hold PO carvedilol and PO lasix for now
   .
   #. Hypoxia: Resolved w/ improved pleth
   -Careful volume resuscitation given Hx of CHF
   -Con't Advair and spiriva
   -Standing albuterol and atrovent nebs
   .
   #. A.fib: Currently rate controlled.
   -Holding PO carvedilol now given hypotension yesterday
   -IV diltiazem PRN
   .
   #. DM2: Hold PO meds, cover with RISS for now.
   .
   #. BPH: hold home tamsulosin given hypotension
   .
   # HTN: h/o HTN
   -holding all BP meds for now, would 1^st  start back BP med such as
   diltiazem to help with rate control
   .
   #. Trigeminal neuralgia: Con't home Zonegran, carbamezapine,
   sertraline, and Neurontin
   .
   #. S/P Hindfoot fixation: is soaking through dressing
   -F/U ortho recs
   -Pain control with dilaudid PCA and PO
   .
   #. CAD:
   -Hold BB given hypotension
   -Con't home ASA and simvastatin
   .
   #. FEN - Diabetic/cardiac diet
   -advanced to clear liquids today and then ADAT
   -afternoon lytes and HCT
   .
   #. Access - PIV, R EJ TLC
   .
   #. PPx -
   -DVT ppx with Fondaparinux
   -Bowel regimen
   -Pain management with dilaudid PCA and PO
   .
   #. Code - Full Code confirmed
   .
   #. Dispo - ICU for now, consider call out if Hct remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-3-29**] 07:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: